US06063949
208 g (359 mmol) of pyrrolidine are added dropwise at 0° C. over a period of 45 minutes to a mixture of 35.0 g (239 mmol) of benzalacetone and 38.1 g (717 mmol) of cyclopentadiene in 300 ml of methanol. The red reaction solution is stirred for 40 minutes at room temperature and is subsequently admixed at 0° C. with 19 g (346 mmol) of glacial acetic acid. After addition of 300 ml of water and 500 ml of diethyl ether, the product is extracted. The aqueous phase is extracted twice with 250 ml each time of diethyl ether, the combined ether phases are dried over MgSO4 and the solvent is removed under reduced pressure. The crude product is distilled in an oil pump vacuum, giving 24.1 g (52%) of 4-methyl-6-phenyl-5,6-dihydropentalene.

reactant | pyrrolidine | 359 mmol, 208 g | N1CCCC1 | C4H9N
reactant | benzalacetone | 239 mmol, 35.0 g | C(C1=CC=CC=C1)=CC(C)=O | C10H10O
reactant | cyclopentadiene | 717 mmol, 38.1 g | C1=CC=CC1 | C5H6
reactant | acetic acid | 346 mmol, 19 g | C(C)(=O)O | C2H4O2
solvent | methanol | 300 ml | CO | CH4O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 300 ml | O | H2O
product | 4-methyl-6-phenyl-5,6-dihydropentalene | 24.1 g, 52% | CC1=C2C=CC=C2C(C1)C1=CC=CC=C1 | C15H14
